US06392081B1
Cupric chloride (0.673 g, 2.5 equivalents) was added in one portion to a solution of 3-(2,6-dichloro-4-trifluoromethylphenylhydrazino)propionitrile (0591 g, 2 mmol) in chlorobenzene, and the mixture heated at 65° C. for 50 minutes. The reaction was judged to be complete and was cooled, washed (water), dried (magnesium sulphate), evaporated and separated by chromatography on silica gel to give 3-(2,6-dichloro-4-trifluoromethylphenylhydrazono)propionitrile,

reactant | 3-(2,6-dichloro-4-trifluoromethylphenylhydrazino)propionitrile | 2 mmol | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NNCCC#N | C10H8Cl2F3N3
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3-(2,6-dichloro-4-trifluoromethylphenylhydrazono)propionitrile | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=CCC#N | C10H6Cl2F3N3
